US07915267B2
ethyl 1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]7-oxo-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidine-5-carboxylate
Methyl 4-amino-1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-1H-pyrazole-5-carboxylate (2.18 g, 6.83 mmol) and ethyl cyanoformate (811 mg, 8.18 mmol) were added to 1N hydrogen chloride-acetic acid (40 mL), and the mixture was stirred under heating at 90° C. for 4 hr. After the mixture was allowed to cool, diethyl ether was added, and the precipitated crude crystals were collected by filtration, and washed with diethyl ether to give the title compound (1.79 g).

reactant | Methyl 4-amino-1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]-1H-pyrazole-5-carboxylate | 6.83 mmol, 2.18 g | NC=1C=NN(C1C(=O)OC)CCOC1=CC=C(C=C1)C(=O)OC | C15H17N3O5
reactant | ethyl cyanoformate | 8.18 mmol, 811 mg | C(#N)C(=O)OCC | C4H5NO2
reactant | hydrogen chloride acetic acid | 1N, 40 mL | Cl.C(C)(=O)O
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl 1-[2-({4-[(methyloxy)carbonyl]phenyl}oxy)ethyl]7-oxo-6,7-dihydro-1H-pyrazolo[4,3-d]pyrimidine-5-carboxylate | 1.79 g | COC(=O)C1=CC=C(C=C1)OCCN1N=CC=2N=C(NC(C21)=O)C(=O)OCC | C18H18N4O6
